US07098342B2
A mixture of trityl candesartan cilexetil (20 g, 23.45 mmol), toluene (60 ml), methanol (60 ml), and water (1 ml) was gently refluxed for about 12 h. The reaction was monitored by HPLC. The solution volume was reduced by evaporation under reduced pressure (30 mbar) at a temperature of about 55° C. 60° C. to obtain viscous oil of candesartan cilexetil as a residue (36.5 g).

reactant | trityl candesartan cilexetil | 23.45 mmol, 20 g | CCOC1=NC2=CC=CC(=C2N1CC3=CC=C(C=C3)C4=CC=CC=C4C5=NN=NN5C(C6=CC=CC=C6)(C7=CC=CC=C7)C8=CC=CC=C8)C(=O)OC(C)OC(=O)OC9CCCCC9 | C52H48N6O6
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | methanol | 60 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | candesartan cilexetil | CCOC1=NC=2C=CC=C(C2N1CC=3C=CC(=CC3)C=4C=CC=CC4C5=NNN=N5)C(=O)OC(C)OC(=O)OC6CCCCC6 | C33H34N6O6
